US07786165B2
ethyl 3-(4-amino-2-fluorophenyl)propanoate
Ethyl(2E)-3-(4-amino-2-fluorophenyl)acrylate (12.4 g, 59.3 mmol) was dissolved in ethanol (120 mL), and 10% palladium-carbon (50% water-containing product, 4.0 g) was added. The mixture was stirred under a hydrogen atmosphere (balloon pressure) at room temperature for 12 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-50% ethyl acetate/hexane) to give the title compound (9.89 g, yield 79%) as a pale-brown oil.

reactant | Ethyl(2E)-3-(4-amino-2-fluorophenyl)acrylate | 59.3 mmol, 12.4 g | NC1=CC(=C(C=C1)/C=C/C(=O)OCC)F | C11H12FNO2
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 4.0 g | [C].[Pd]
product | ethyl 3-(4-amino-2-fluorophenyl)propanoate | 9.89 g, yield 79% | NC1=CC(=C(C=C1)CCC(=O)OCC)F | C11H14FNO2
